*This library contains analog parts for the Micro-Cap evaluation version.

.macro ST2 DIAC(32,.5)
.macro 2N5444 TRIAC(10m,20m,1u,1.65,200,50MEG,0,1,1)
.macro 2N690 SCR(7.3m,6m,2u,1.15,600,30MEG,100u,1,1)

* LM311 VOLTAGE COMPARATOR "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS VERSION 4.03 ON 03/07/90 AT 08:15
* REV (N/A)
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OPEN COLLECTOR OUTPUT
*                | | | | | OUTPUT GROUND
*                | | | | | |
.SUBCKT LM311_TI    1 2 3 4 5 6
*
  F1    9  3 V1 1
  IEE   3  7 DC 100.0E-6
  VI1  21  1 DC .45
  VI2  22  2 DC .45
  Q1    9 21  7 QIN
  Q2    8 22  7 QIN
  Q3    9  8  4 QMO
  Q4    8  8  4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=500)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=102.5E-9)
  E1   10  6  9  4  1
  V1   10 11 DC 0
  Q5    5 11  6 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=103.5E3 CJC=1E-15 TF=11.60E-12 TR=48.19E-9)
  DP    4  3 DX
  RP    3  4 6.667E3
.MODEL DX  D(IS=800.0E-18)
*
.ENDS

*** 5.6V 500mW Zener Diode
.MODEL 1N752 D (IS=5.72393F BV=5.6 IBV=20M RS=11 CJO=149.624P VJ=750M
+ M=499.419M RL=1G)

*** From file F:\MC9\library\JFET.LIB
.MODEL 2N4393 NJF (VTO=-2.81041 BETA=4.644731M LAMBDA=10M IS=10F RS=2.483091
+ CGD=5.321821P CGS=9.310367P PB=2.449314 KF=1.462538E-018 AF=499.910353M)

*** From file F:\MC9\library\MSBJT.LBR
*** NPN 40V 200mA
.MODEL 2N3946 NPN (BF=78.0026 BR=105.035M CJC=4.87834P CJE=7.01663P
+ IKF=145.824M IKR=46.8389 IS=.629196F ISC=100P ISE=985.815F ITF=9.94048M
+ MJC=300M MJE=300M NE=1.74045 NF=929.132M RC=394.919M RE=2 TF=570.088P
+ TR=3.50347U VAF=100 VJC=756.556M VJE=907.488M VTF=10 XTF=500.002M)

* LM339 VOLTAGE COMPARATOR "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS VERSION 4.03 ON 03/07/90 AT 14:17
* REV (N/A)
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OPEN COLLECTOR OUTPUT
*                | | | | |
.SUBCKT LM339_TI    1 2 3 4 5
*
  F1    9  3 V1 1
  IEE   3  7 DC 100.0E-6
  VI1  21  1 DC .75
  VI2  22  2 DC .75
  Q1    9 21  7 QIN
  Q2    8 22  7 QIN
  Q3    9  8  4 QMO
  Q4    8  8  4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=2.000E3)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=807.4E-9)
  E1   10  4  9  4  1
  V1   10 11 DC 0
  Q5    5 11  4 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=20.29E3 CJC=1E-15 TF=942.6E-12 TR=543.8E-9)
  DP    4  3 DX
  RP 3  4 46.3E3
.MODEL DX  D(IS=800.0E-18)
*
.ENDS

*   ZETEX  BCX38B Darlington Spice Subcircuit   Last revision  4/9/90
*
.SUBCKT BCX38B_ZX 1 2 3
*                 C B E
Q1 1 2 4 SUB38B
Q2 1 4 3 SUB38B 12.75
*
.MODEL SUB38B NPN IS =1.1E-14 ISE=7.1E-15 NF =1.012 NE =1.4758 BF =147 IKF=.12
+BR =15 IKR=.05 RE =1.3 RC =.5 RB =.3 VAF=150 CJE=14.5E-12 CJC=4.14E-12
+VJC=.515 MJC=.26 TF =1.15E-9 TR =75E-9
.ENDS

